US04783467
2-Amino-5-(2-Methoxypyrid-5-yl)-3-methylbenzylalcohol
n-Butyllithium (33 cm3 of a 1.6M solution in n-hexane) was added to a stirred solution of 2-methoxy-5-bromopyridine (9.4g) in tetrahydrofuran (THF) (70 cm3) at -70° under nitrogen. After stirring for 1 hour at -70° the mixture treated with a solution of anhydrous zinc chloride (14.2 g) in THF (70 cm3) and the mixture was warmed to room temperature. 2-Amino-5-iodo-3-methylbenzyl alcohol (3.9 g--see preparation 8) and tetrakis(triphenylphosphine) palladium (0) (0.4 g) were added and the mixture heated under reflux for 3 hours. Saturated ammonium chloride solution (50 cm3) was added to the cooled solution and the mixture was partitioned between ethyl acetate (300 cm3) and a solution of ethylenediaminetetraacetic acid disodium salt (20 g) in water (300 cm3). The aqueous phase was further extracted with ethyl acetate (300 cm3) and the combined and dried (MgSO4) organic phases were evaporated in vacuo to give a brown oil which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane:methanol, 49:1. Combination and evaporation of appropriate fractions afforded the title compound as a waxy solid, m.p. 80°-82° (3.6 g), which was used directly without further purification.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2-methoxy-5-bromopyridine | 9.4g | COC1=NC=C(C=C1)Br | C6H6BrNO
reactant | 2-Amino-5-iodo-3-methylbenzyl alcohol | 3.9 g | NC1=C(CO)C=C(C=C1C)I | C8H10INO
reactant | ammonium chloride | 50 cm3 | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 cm3 | O1CCCC1 | C4H8O
solvent | THF | 70 cm3 | O1CCCC1 | C4H8O
catalyst | zinc chloride | 14.2 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.4 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Amino-5-(2-Methoxypyrid-5-yl)-3-methylbenzylalcohol | NC1=C(CO)C=C(C=C1C)C=1C=CC(=NC1)OC | C14H16N2O2
